US06610880B1
To a well-stirred reaction vessel equipped with a thermometer and a pH electrode were added 39 g of water and 0.20 g of Arquad CB50 at 5° C. After the addition of 0.05 mole of 3-chlorobenzoic acid the pH was adjusted to 6 using a 10 wt % aqueous NaOH solution. Then, 0.05 mole of sec-butyl chloroformate was dosed within 5 min at 5° C. During this time and a post-reaction time of 165 min at 5° C. the pH was kept at a value between 6 and 9. The reaction mixture was allowed to separate, giving 12.5 g of 3-chlorobenzoyl 1-methyl-1-propyl carbonate having a content of 98% in a yield of 95%.

reactant | 3-chlorobenzoic acid | 0.05 mole | ClC=1C=C(C(=O)O)C=CC1 | C7H5ClO2
reactant | NaOH | [OH-].[Na+]
reactant | sec-butyl chloroformate | 0.05 mole | ClC(=O)OC(C)CC | C5H9ClO2
solvent | water | 39 g | O | H2O
product | 3-chlorobenzoyl 1-methyl-1-propyl carbonate | 12.5 g, yield of 95% | C(OC(C1=CC(=CC=C1)Cl)=O)(OC(CC)C)=O | C12H13ClO4
